US07709645B2
To a round bottom flask was added N-methylethylenediamine (1.9 ml, 21.79 mmol), water (0.43 mL), acetonitrile (33 mL) and ethyl trifluoroacetate (6.5 ml, 54.62 mmol). The mixture was stirred at reflux for 18 hours. The mixture was concentrated in vacuo. Dichloromethane was added to the residue and the solid filtered off to give 3.71 g of crude 2,2,2-trifluoro-N-(2-methylamino-ethyl)-acetamide, which was used in step 2 without further purification. MS: m/z 171.1 (M+H+).

reactant | N-methylethylenediamine | 21.79 mmol, 1.9 ml | CNCCN | C3H10N2
reactant | water | 0.43 mL | O | H2O
reactant | ethyl trifluoroacetate | 54.62 mmol, 6.5 ml | FC(C(=O)OCC)(F)F | C4H5F3O2
solvent | acetonitrile | 33 mL | C(C)#N | C2H3N
product | 2,2,2-trifluoro-N-(2-methylamino-ethyl)-acetamide | 3.71 g | FC(C(=O)NCCNC)(F)F | C5H9F3N2O
